US07148228B2
4-bromo-2-chloromethyl-3,5-dimethyl pyridine
A suspension of 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine (3.24 g, 14.6 mmol) in PBr3 (8.0 ml, 85.1 mmol, 5.8 equiv.) was heated to 80° C. under nitrogen. A catalytic amount of DMF (0.50 ml, 6.4 mmol, 0.44 equiv.) was added, whereupon the suspension rapidly turned into an orange solution. After 40 min., the reaction was still incomplete as judged by HPLC. The temperature was raised to 110° C. and the reaction was prolonged for 30 min, at which point it was complete. The mixture was poured over ice, made basic with conc. aq. NH4OH and extracted into EtOAc. Washing with water, drying (brine, MgSO4) and concentration gave the title compound as a pink solid (1.51 g, 44%) containing 10% of an impurity by 1H-NMR. The crude was used without further purification. 1H-NMR (CDCl3) δ 8.19 (s, 1H), 4.59 (s, 2H), 2.48 (s, 3H), 2.37 (s, 3H).

reactant | 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine | 14.6 mmol, 3.24 g | ClCC1=NC=C(C(=C1C)OC)C | C9H12ClNO
reactant | PBr3 | 85.1 mmol, 8.0 ml, 5.8 equiv. | P(Br)(Br)Br | Br3P
reactant | DMF | 6.4 mmol, 0.50 ml, 0.44 equiv. | CN(C)C=O | C3H7NO
reactant | NH4OH | [NH4+].[OH-]
product | 4-bromo-2-chloromethyl-3,5-dimethyl pyridine | 1.51 g, 44% | BrC1=C(C(=NC=C1C)CCl)C | C8H9BrClN
